US07754757B2
(2S,4S)-1-[[N-(4-Carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (50.0 mg), 5-bromo-1-pentanol (18.7 μL), potassium carbonate (23.5 mg), and N,N-dimethylformamide (1.5 mL) were mixed together. The mixture was stirred at room temperature for 4 hours. The insoluble materials in the mixture was filtered and the filtrate was concentrated under reduced pressure. The resulting residue was purified by a silica gel column (eluant: chloroform:methanol=10:1) to give (2S,4S)-4-fluoro-1-[[N-(5-hydroxypentyloxycarbonylbicyclo[2.2.2]oct-1-yl)amino]acetyl]pyrrolidine-2-carbonitrile (32.4 mg).

reactant | (2S,4S)-1-[[N-(4-Carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 50.0 mg | C(=O)(O)C12CCC(CC1)(CC2)NCC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C16H22FN3O3
reactant | 5-bromo-1-pentanol | 18.7 μL | BrCCCCCO | C5H11BrO
reactant | potassium carbonate | 23.5 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
product | (2S,4S)-4-fluoro-1-[[N-(5-hydroxypentyloxycarbonylbicyclo[2.2.2]oct-1-yl)amino]acetyl]pyrrolidine-2-carbonitrile | 32.4 mg | F[C@H]1C[C@H](N(C1)C(CNC12C(CC(CC1)CC2)C(=O)OCCCCCO)=O)C#N | C21H32FN3O4
